US04644005
B1. 1-ethyl-5-chloroacetoxyoxindole
To a slurry of 100 g. (0.565 mole) of 1-ethyl-5-hydroxyoxindole in 91.3 ml. (1.13 moles) of pyridine and 565 ml. of dichloromethane at 0° C. was added dropwise a solution of 89.3 ml. (1.13 moles) of chloroacetyl chloride in 100 ml. of dichloromethane. The reaction mixture was allowed to stir for 15 minutes, and was then added to 1 l. of ice cold 2N hydrochloric acid and 500 ml. of dichloromethane. The aqueous layer was extracted once again with 300 ml. of dichloromethane and the combined organic extracts washed once with 500 ml. of a saturated brine solution, dried over magnesium sulfate and concentrated to give the desired product in quantitative yield. A small sample was crystallized from hexane, m.p. 53°-57° C.

reactant | 1-ethyl-5-hydroxyoxindole | 0.565 mole | C(C)N1C(CC2=CC(=CC=C12)O)=O | C10H11NO2
reactant | pyridine | 1.13 moles | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 1.13 moles | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-ethyl-5-chloroacetoxyoxindole | quantitative yield | C(C)N1C(CC2=CC(=CC=C12)OC(CCl)=O)=O | C12H12ClNO3
